Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ ___, HTN, HLD who presented to 
___ for chest pain that was radiating to 
his back. A CTA at the OSH revealed a 1.5cm descending aortic 
ulcer. His INR was 2.5 (on Coumadin)so he was given Vitamin K 
10mg IV and FFP 2 units for reversal of his Coumadin. He also 
had a guaiac positive stool so he was given 1U PRBCs. Prior to 
transfer he was also found to have an elevated troponin of 0.1; 
however, he has CKD so it is unclear. He also developed 
tachycardia and hypotension. He is on rate control medications 
for atrial fibrillation at home, but has not been receiving 
them. 

Upon arrival to the ___ ED he reported that he was having no 
chest pain or shortness of breath. C-surg was consulted for his 
aortic arch ulceration. On further investigation, the aortic 
arch ulceration appears to be an old finding per ___ records 
years ago. As a result there is no need for urgent C-surg 
intervention and they recommended vascular surgery consult for 
possible stenting. 

He continued to have wide complex tachycardia with hypotension 
in the ED, so he was given an additional 500cc bolus NS. 
Cardiology was consulted and felt that the wide complex 
tachycardia was most likely Afib with aberrancy. 

While in the ED he developed dyspnea and a new O2 requirement so 
a CXR was obtained which showed evidence of pulmonary edema.
 

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- ___

3. OTHER PAST MEDICAL HISTORY
- Throat cancer treated at ___
- Hypothyroid  
- CKD
 
Social History:
___
Family History:
Sister has an abdominal aortic aneurysm
Mother died following open heart surgery, pt unsure what surgery 
it was
 
Physical Exam:
==========================
ADMISSION PHYSICAL EXAM
==========================
VS: T97.4 BP100s/60s HR120s RR18 O2 SAT 97% 2LNC
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
CARDIAC: Tachycardic, no murmurs, rubs, gallops appreciated 
LUNGS: No chest wall deformities or tenderness. Diffuse crackles 
throughout
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: WWP, chronic venous stasis changes bilaterally, no 
evidence of peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses dopplerable

==========================
DISCHARGE PHYSICAL EXAM
==========================
VS: Afeb, BP 100s/40s-60s, HR ___, RR18, O2 SAT 96% RA
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
CARDIAC: RRR. No murmurs, rubs, gallops appreciated 
LUNGS: No chest wall deformities or tenderness. Diffuse crackles 
throughout
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: WWP, chronic venous stasis changes bilaterally, no 
evidence of peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses dopplerable
 
Pertinent Results:
========================
ADMISSION LABS
========================
___ 07:40PM BLOOD WBC-16.9* RBC-3.09* Hgb-8.5* Hct-27.4* 
MCV-89 MCH-27.5 MCHC-31.0* RDW-17.8* RDWSD-56.6* Plt ___
___ 07:40PM BLOOD Neuts-89.3* Lymphs-3.2* Monos-5.7 
Eos-0.4* Baso-0.3 NRBC-0.2* Im ___ AbsNeut-15.12* 
AbsLymp-0.55* AbsMono-0.96* AbsEos-0.07 AbsBaso-0.05
___ 07:40PM BLOOD ___ PTT-33.2 ___
___ 07:40PM BLOOD Glucose-420* UreaN-72* Creat-1.6* Na-130* 
K-4.8 Cl-89* HCO3-26 AnGap-20
___ 07:40PM BLOOD cTropnT-0.07*
___ 12:17AM BLOOD CK-MB-14* cTropnT-0.31*
___ 07:40PM BLOOD Calcium-8.9 Phos-4.1 Mg-1.9
___ 07:48PM BLOOD Lactate-3.1*

========================
DISCHARGE LABS
========================
___ 06:15AM BLOOD WBC-9.1 RBC-3.09* Hgb-9.0* Hct-27.3* 
MCV-88 MCH-29.1 MCHC-33.0 RDW-18.0* RDWSD-54.5* Plt ___
___ 09:00AM BLOOD ___ PTT-27.2 ___
___ 06:15AM BLOOD Glucose-176* UreaN-58* Creat-1.5* Na-132* 
K-4.3 Cl-90* HCO3-31 AnGap-15
___ 12:17AM BLOOD calTIBC-377 Ferritn-180 TRF-290

========================
IMAGING
========================
___ Imaging CHEST (PORTABLE AP):
Moderate pulmonary edema, slightly worse in the interval with 
moderate to
severe cardiomegaly.

___ Cardiovascular ECHO:
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. Left ventricular wall thicknesses are normal. The 
left ventricular cavity is moderately dilated. There is mild 
regional left ventricular systolic dysfunction with near 
akinesis of the basal half of the inferior wall and 
mild-moderate hypokinesis of the remaining segments (biplane 
LVEF = 36 %). [Intrinsic left ventricular systolic function is 
likely more depressed given the severity of mitral 
regurgitation.] There is no ventricular septal defect. The right 
ventricular cavity is mildly dilated with moderate free wall 
hypokinesis. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. An eccentric, 
laterally directed jet of moderate to severe (3+) mitral 
regurgitation is seen. Due to the eccentric nature of the 
regurgitant jet, its severity may be significantly 
underestimated (Coanda effect). An eccentric jet of moderate 
[2+] tricuspid regurgitation is seen directed toward the 
interatrial septum. There is moderate to severe pulmonary artery 
systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 

IMPRESSION: Left ventricular cavity dilation with regional and 
global systolic function c/w diffuse process (multivessel CAD, 
toxin, metabolic, etc.). At least moderate to severe mitral 
regurgitation. Moderate to severe pulmonary artery systolic 
hypertension. Right ventricular cavity dilation with free wall 
hypokinesis. 
 
Brief Hospital Course:
Summary
___ PMH HTN, HLD, CHF who presented to an OSH for CP radiating 
to his back, was found to have an aortic arch and was 
transferred to ___ for further workup and C-surg consultation. 
His aortic ulceration was determined to be chronic and no 
intervention was needed. He also had an episode of melena and 
underwent EGD with treatment of an AVM. He did well post 
procedure and the remainder of his course was uncomplicated. 

Acute issues
#CHEST PAIN:
#Type II NSTEMI:
Patient presented with chest pain and concern for aortic 
dissection. However found to have Aortic arch ulceration which 
is likely chronic. There were no signs of hemorrhage on CT, and 
less likely to be cause of acute chest pain. Had elevated trop 
at OSH, and ECG here did show ST depressions in lateral leads. 
This is likely demand ischemia in the setting of CHF 
exacerbation and rapid HR. We continued ASA 81mg, Atorvastation 
80mg and Metoprolol succinate 75 mg QD. 

#AFIB W/RVR AND ABERRANCY:
Has known Afib. At home he is on metoprolol tartrate 75mg BID. 
He also takes warfarin for anticoagulation. CHADS2VASc - 5. We 
continued Metoprolol for rate control as above and warfarin 5 
mg. 

#AORTIC ARCH ULCERATION:
Chronic, was seen on CT approximately ___ years ago. Is followed 
by Dr. ___ at ___. As the patient's CP has resolved 
without any intervention, and the ulcer is known and chronic, it 
is unlikely to be the cause of his presentation. Per vascular 
surgery, no indication for intervention and remained stable 
during admission. 

#Melena
#ANEMIA: Had episode of melena on admission. Received 1U PRBCs 
at OSH and 1U on ___. GI endoscopy ___ notable for AVM s/p 
thermal ablation. H/H remained stable following ablation. He was 
discharged on home omeprazole without any need to follow with GI 
unless he has additional GI bleeding episodes. 

#HYPOXEMIC RESPIRATORY FAILURE ___ acute sCHF EXACERBATION: 
Received 1U PRBCs on ___, 2U FFP and 1L NS and subsequently 
developed flash pulmonary edema. Improved with IV diuresis and 
then restarted on home dose of diuretics Lasix 80 mg BID. 

#COPD/PHTN: TTE ___ suggestive of moderate pulmonary HTN. We 
recommend f/u with outpatient pulmonology or pulm hypertension 
specialist for outpatient pulmonary testing. 

#CKD: Unknown baseline Cr. Followed by Dr. ___ at ___ 
___. Was stable during admission. 

TRANSITIONAL ISSUES  
===========================  
# CODE: Full (confirmed) 
# CONTACT/HCP:  ___ ___
# DRY WEIGHT:  unclear, per pt has los 20lbs over the past 
___
# DISCHARGE WEIGHT: 76.9kg

- Given patients melena and EGD, would recommend recheck CBC 
with PCP as outpatient within 1 week. 
- Recommend outpatient pulmonary referral as outpatient for 
PFTs. 
- Home nitroglycerine patch was held at discharge due to 
normotension and can be restarted as an outpatient. 
- Will follow with PCP, cardiology and pulmonology as an 
outpatient. 
- Was discharged with INR 1.4 and restarted home warfarin. Did 
not bridge due to melena as above. Patient stated he follows 
with ___ Coumadin clinic which was closed 
today, so I could not confirm this. He should have his next INR 
drawn on ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Ascorbic Acid ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
6. Furosemide 80 mg PO BID 
7. Detemir 15 Units Bedtime
8. Ferrous Sulfate 325 mg PO DAILY 
9. Metolazone 2.5 mg PO 1X/WEEK (___) 
10. Metoprolol Tartrate 75 mg PO BID 
11. Nitroglycerin Patch 0.4 mg/hr TD Q24H 
12. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
13. Omeprazole 20 mg PO DAILY 
14. Potassium Chloride 20 mEq PO DAILY 
15. Sodium Chloride Nasal ___ SPRY NU Q2H:PRN nasal congestion 
16. Spironolactone 50 mg PO DAILY 
17. Levothyroxine Sodium 75 mcg PO DAILY 
18. Warfarin 5 mg PO DAILY16 

 
Discharge Medications:
1.  Detemir 15 Units Bedtime 
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  DiphenhydrAMINE 25 mg PO QHS:PRN insomnia  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  Furosemide 80 mg PO BID  
9.  Levothyroxine Sodium 75 mcg PO DAILY  
10.  Metolazone 2.5 mg PO 1X/WEEK (___)  
11.  Metoprolol Tartrate 75 mg PO BID  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Omeprazole 20 mg PO DAILY  
14.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
15.  Sodium Chloride Nasal ___ SPRY NU Q2H:PRN nasal congestion  

16.  Spironolactone 50 mg PO DAILY  
17.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Aortic ulceration, acute on chronic sCHF, type II 
NSTEMI
Secondary: Afib, HLD, CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear MR. ___,

You came to ___ with chest pain which was likely caused by a 
rapid heart rate and fluid overload. We also treated you for a 
small bleed in your stomach. Please take all of your medications 
and follow with the outpatient appointments we have made. 
 
Followup Instructions:
___